* Reference solution for benchmarks/design-agent/tasks/miller-integrator.json.
*
* Inverting (Miller) integrator: series input resistor R1 into the summing
* node, integrating capacitor Cf wrapped from the output back to that same
* node, around an inverting gain stage -- the textbook op-amp integrator,
* with a single self-biased common-source stage (M1/Rd) standing in for the
* op-amp. Above the lossy pole set by Rb, the closed-loop transfer is
* -Zf/R1 = -1/(s*R1*Cf): a -20 dB/decade magnitude slope through a unity-
* gain frequency of 1/(2*pi*R1*Cf) ~= 995 Hz, which is exactly what this
* task's three gates pin down (gain at 100 Hz, at 1 kHz, and the decade
* slope from 1 kHz to 10 kHz).
*
* Why those three gates and not just the slope: a bare passive R-C low-pass
* also rolls off at -20 dB/decade, and a bare gain stage with no feedback
* capacitor has a flat response. Only an *active* integrator can both roll
* off at one decade per decade AND still be amplifying (>= 15 dB) a decade
* below its unity-gain frequency, which is what separates a correct answer
* from either degenerate one.
*
* Biasing: Rb is the only DC path onto M1's gate (Cin blocks the stimulus
* at DC), so no DC current flows in it and V(gate) = V(out) -- the same
* drain-to-gate self-bias common-source-amp.spice uses, which holds M1 in
* saturation across the Vt/KP corner sweep without an external bias
* generator. Rb also turns the ideal integrator into a lossy one with a
* pole at 1/(2*pi*Rb*Cf) ~= 10 Hz, two decades below the lowest measured
* frequency, so it costs the measured band nothing.
*
* Sizing note: M1 is run at a deliberately small overdrive against a large
* Rd, because the stage's own gain (2*(Vdd-Vgs)/Vov ~= 35 dB here) is the
* error term in the -Zf/R1 transfer -- it has to stay well above the
* 20 dB of closed-loop gain asked for at 100 Hz.
*
* Circuit body only: no .control/.end cards (klt sim generates those --
* see docs/cli/sim.md, "Netlist convention"). Real sky130 devices
* (sky130_fd_pr__nfet_01v8) via $PDK_ROOT, per docs/cli/sim.md -- see
* sim_request.json's "models" field. Device W/L are in microns
* (sky130_fd_pr subckt convention, bare numbers not "u"-suffixed).

.param vdd=1.8
.param rd=1meg
.param r1=1meg
.param cf=160p
.param rb=100meg
.param cin=1e3

Vdd vdd 0 DC {vdd}
Vin in 0 DC 0 AC 1
Cin in sum_in {cin}
R1 sum_in gate {r1}
Cf gate out {cf}
Rb gate out {rb}
XM1 out gate 0 0 sky130_fd_pr__nfet_01v8 L=1 W=10 nf=1 mult=1
Rd vdd out {rd}
